US04665070
A. 6-Carboethoxyamino-2-ethoxy-4H-3,1-benzoxazin-4-one and Related Compounds of Formula ID
To a solution of 7-amino-2-ethoxy-4H-3,1-benzoxazin-4-one (0.2 m mol., 41 mg) and dry pyridine (0.1 ml) in dry dichloromethane (4 ml) at room temperature under anhydrous conditions was added ethyl chloroformate (0.05 ml, 0.52 m mol.) in one portion. After stirring for one hour, the reaction mixture was diluted with dichloromethane (16 ml), washed successively with water (15 ml), 5% CuSO4) and evaporated to dryness. The residue was stirred in anhydrous ether (2 ml) and filtered to afford 53 mg (95%) of the title compound, 7-carboethoxyamino-2-ethoxy-4H-3,1-benzoxazin-4-one as a colorless powder; m.p. 191°-193° C.; IR (KBr): νmax 3310 cm-1 (NH), 1735 cm-1 (ester, carbamyl); 1640 cm-1 (C=N); H'NMR (CDCl3): δ1.34 ppm (t, J=7.1 Hz, 3H, CH3CH2OCON), 1.44 ppm (t, J=7.1 Hz, 3H, CH)

reactant | 7-amino-2-ethoxy-4H-3,1-benzoxazin-4-one | 41 mg | NC1=CC2=C(C(OC(=N2)OCC)=O)C=C1 | C10H10N2O3
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 0.05 ml | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | 6-Carboethoxyamino-2-ethoxy-4H-3,1-benzoxazin-4-one | 53 mg, 95% | C(=O)(OCC)NC=1C=CC2=C(C(OC(=N2)OCC)=O)C1 | C13H14N2O5
